US08865848B2
2-(cyclohexylmethyl)-4-Bromo-3,5,6,7-tetrahydro-s-indacen-1(2H)-one
To a mixture of 40.9 g (0.305 mol) of AlCl3 in 180 ml of dichloromethane 32.7 g (0.122 mol) of 2-(cyclohexylmethyl)-3,5,6,7-tetrahydro-s-indacen-1(2H)-one was added. To this mixture cooled to 0° C. 21.5 g (0.134 mol) of bromine was added dropwise by vigorous stirring for 45 min at 0-5° C. The resulting mixture was stirred for 12 h at ambient temperature and then poured on 1000 cm3 of ice. The organic layer was separated, and the aqueous layer was extracted with 3×200 ml of dichloromethane. The combined organic extract was dried over Na2SO4 and then evaporated to dryness. This product was further used without an additional purification. Yield 39.5 g (93%).

reactant | AlCl3 | 0.305 mol, 40.9 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | dichloromethane | 0.122 mol, 180 ml, 32.7 g | ClCCl | CH2Cl2
reactant | 2-(cyclohexylmethyl)-3,5,6,7-tetrahydro-s-indacen-1(2H)-one | C1(CCCCC1)CC1C(C2=CC=3CCCC3C=C2C1)=O | C19H24O
reactant | bromine | 0.134 mol, 21.5 g | BrBr | Br2
product | 2-(cyclohexylmethyl)-4-Bromo-3,5,6,7-tetrahydro-s-indacen-1(2H)-one | C1(CCCCC1)CC1C(C2=CC=3CCCC3C(=C2C1)Br)=O | C19H23BrO
